US06043248
A solution of 2-chloro-3-hydroxy-4-iodo-6-(1-hydroxyethyl)-pyridine (3.6 g, 12 mmol) in 24 mL of N,N-dimethylformamide at 0° C. is treated with 480 mg (60% in oil, 12 mmol) of sodium hydride and stirred at room temperature for 1 h. The reaction is treated with 1.14 g (13.2 mmol) of allyl bromide and stirred for 2 h. The mixture is poured into 125 mL of ethyl acetate and washed with 4×50 mL of saturated sodium chloride, 2×25 mL of 50% saturated sodium carbonate and dried over potassium carbonate. The dried organics are concentrated in vacuo, diluted with 20 mL of hexanes, and chilled to -15° C. The solid is filtered to provide 3.61 g (89%) of 2-chloro-3-(1-propen-3-yl)-4-iodo-6-(1-hydroxyethyl)-pyridine.

reactant | 2-chloro-3-hydroxy-4-iodo-6-(1-hydroxyethyl)-pyridine | 12 mmol, 3.6 g | ClC1=NC(=CC(=C1O)I)C(C)O | C7H7ClINO2
reactant | sodium hydride | 12 mmol, 480 mg | [H-].[Na+]
reactant | allyl bromide | 13.2 mmol, 1.14 g | C(C=C)Br | C3H5Br
reactant | ethyl acetate | 125 mL | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 24 mL | CN(C=O)C | C3H7NO
product | 2-chloro-3-(1-propen-3-yl)-4-iodo-6-(1-hydroxyethyl)-pyridine | 3.61 g, 89% | ClC1=NC(=CC(=C1CC=C)I)C(C)O | C10H11ClINO
